US05177089
N-[2-(3,4-Dimethoxyphenyl)ethyl]homopiperazine
32 27 g of homopiperazine, 13.2 g of 2-(3,4-dimethoxyphenyl)ethyl chloride and 71.3 g of potassium carbonate were added to 500 ml of acetonitrile. The obtained mixture was heated under reflux for 20 hours, cooled and filtered The filtrate was concentrated under a reduced pressure to obtain a residue. This residue was extracted with ether thrice. The extracts were combined, dried over anhydrous sodium sulfate and filtered The filtrate was concentrated under a reduced pressure The obtained residue was purified by silica gel column chromatography (solvent: chloroform/methanol/isopropylamine (100:10:1)) to obtain 13.40 g of the title compound as a yellow oil (yield: 77%).

reactant | homopiperazine | N1CCNCCC1 | C5H12N2
reactant | 2-(3,4-dimethoxyphenyl)ethyl chloride | 13.2 g | COC=1C=C(C=CC1OC)CCCl | C10H13ClO2
reactant | potassium carbonate | 71.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | N-[2-(3,4-Dimethoxyphenyl)ethyl]homopiperazine | 13.40 g, yield: 77% | COC=1C=C(C=CC1OC)CCN1CCNCCC1 | C15H24N2O2
